### ISSUE TITLE
`linter.unusedVariables` false positive when using `match` and `assumption`

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#4714]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The `unusedVariables` linter reports a false positive on the theorem `bad` below:

```lean
inductive A where
  | intro : Nat → A

def A.out : A → Nat
  | .intro n => n

/--
warning: unused variable `h`
note: this linter can be disabled with `set_option linter.unusedVariables false`
-/
#guard_msgs in
theorem bad (n : A) (i : Nat) (h : i ≤ n.out) : i ≤ n.out :=
  match n with
  | .intro _ => by assumption

#guard_msgs in
theorem good₁ (n : A) (i : Nat) (h : i ≤ n.out) : i ≤ n.out := by
  cases n with
  | intro n => assumption

#guard_msgs in
theorem good₂ (n : A) (i : Nat) (h : i ≤ n.out) : i ≤ n.out := by
  assumption

#guard_msgs in
theorem good₃ (n : A) (i : Nat) (h : i ≤ n.out) : i ≤ n.out :=
  match n, h with
  | .intro _, h => by assumption

-- Bodies of `bad` and `good₃` are identical:

/--
info: theorem bad : ∀ (n : A) (i : Nat), i ≤ n.out → i ≤ n.out :=
fun n i h =>
  match n, h with
  | A.intro a, h => h
-/
#guard_msgs in
#print bad

/--
info: theorem good₃ : ∀ (n : A) (i : Nat), i ≤ n.out → i ≤ n.out :=
fun n i h =>
  match n, h with
  | A.intro a, h => h
-/
#guard_msgs in
#print good₃
```

### Context

There are several other issues about false positives of the `unusedVariables` linter. I have checked them and I believe that this is a new issue.

### Steps to Reproduce

1. Copy the code above into the Lean web editor

**Expected behavior:** Linter should not warn about `bad`

**Actual behavior:** Linter warns about `bad`

### Versions

4.11.0-nightly-2024-07-09 on the Lean web editor

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
